US09212190B2
To a solution of ethyl 2-[(13S)-3-[(4-[[(tert-butoxy)carbonyl]amino]cyclohexyl)oxy]-8-thia-4,6-diazatricyclo[7.4.0.0[2,7]]trideca-1(9),2(7),3,5-tetraen-13-yl]acetate (800 mg, 1.63 mmol, 1.00 equiv) in THF (30 mL) in an ice/water bath under nitrogen was added LiAlH4 (121.2 mg, 3.20 mmol, 2.00 equiv). The resulting solution was stirred for 2 h at room temperature and quenched with water, extracted with ethyl acetate (80 mL), dried over anhydrous sodium sulfate and concentrated under vacuum. The residue was applied onto a silica gel column with ethyl acetate/petroleum ether (1:1) to give 490 mg (67%) of tert-butyl N-(4-[[(13S)-13-(2-hydroxyethyl)-8-thia-4,6-diazatricyclo[7.4.0.0[2,7]]trideca-1(9),2(7),3,5-tetraen-3-yl]oxy]cyclohexyl)carbamate as a colorless oil.

reactant | ethyl 2-[(13S)-3-[(4-[[(tert-butoxy)carbonyl]amino]cyclohexyl)oxy]-8-thia-4,6-diazatricyclo[7.4.0.0[2,7]]trideca-1(9),2(7),3,5-tetraen-13-yl]acetate | 1.63 mmol, 800 mg, 1.00 equiv | C(C)(C)(C)OC(=O)NC1CCC(CC1)OC=1C=2C=3[C@@H](CCCC3SC2N=CN1)CC(=O)OCC | C25H35N3O5S
reactant | LiAlH4 | 3.20 mmol, 121.2 mg, 2.00 equiv | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | tert-butyl N-(4-[[(13S)-13-(2-hydroxyethyl)-8-thia-4,6-diazatricyclo[7.4.0.0[2,7]]trideca-1(9),2(7),3,5-tetraen-3-yl]oxy]cyclohexyl)carbamate | 490 mg, 67% | OCC[C@@H]1CCCC=2SC=3N=CN=C(C3C12)OC1CCC(CC1)NC(OC(C)(C)C)=O | C23H33N3O4S
